data/polar.json
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:3]=[S:7](=[O:4])([N:14]=[C:13]=[O:17])[c:27]1[cH:8][cH:5][c:24]([CH3:28])[cH:6][cH:9]1.[cH:1]1[c:23]([CH:15]=[C:18]2[S:11][c:21]3[cH:19][cH:12][cH:16][cH:10][c:20]3[N:30]2[CH3:22])[cH:2][cH:26][cH:29][cH:25]1>>[cH:1]1[c:23]([CH:15]([C:13]([N-:14][S:7](=[O:3])(=[O:4])[c:27]2[cH:8][cH:5][c:24]([CH3:28])[cH:6][cH:9]2)=[O:17])[c:18]2[s:11][c:21]3[cH:19][cH:12][cH:16][cH:10][c:20]3[n+:30]2[CH3:22])[cH:2][cH:26][cH:29][cH:25]1", "epd": [["LP-/Pi+", [30], [18, 30]], ["Pi-/Sigma+", [15, 18], [15, 13]], ["Pi-/LP+", [13, 14], [14]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[c:22]2[cH:21][cH:6][cH:2][cH:15][c:24]2[cH-:4][cH:23]1.[cH:3]1[cH:11][cH:5][c:7]2[c:12]([o+:8][c:10](-[c:19]3[cH:16][cH:13][cH:20][cH:14][cH:17]3)[cH:9][cH:18]2)[cH:25]1>>[CH:1]1=[CH:23][CH:4]([CH:18]2[c:7]3[cH:5][cH:11][cH:3][cH:25][c:12]3[O:8][C:10]([c:19]3[cH:16][cH:13][cH:20][cH:14][cH:17]3)=[CH:9]2)[c:24]2[cH:15][cH:2][cH:6][cH:21][c:22]21", "epd": [["LP-/Sigma+", [4], [4, 18]], ["Pi-/Pi+", [18, 9], [9, 10]], ["Pi-/LP+", [10, 8], [8]]]}
{"reaction_name": "Electrophilic cyanation of enolates", "rsmi": "[Br:4][C:7]#[N:5].[CH2-:1][C:6]([CH3:2])=[O:3]>>[Br-:4].[CH2:1]([C:6]([CH3:2])=[O:3])[C:7]#[N:5]", "epd": [["LP-/Sigma+", [1], [1, 7]], ["Pi-/LP+", [5, 7], [5]], ["LP-/Pi+", [5], [5, 7]], ["Sigma-/LP+", [4, 7], [4]]]}
{"reaction_name": "Oxocarbenium alcohol capture", "rsmi": "[O:1]1[CH2:2][CH2:3][CH2:4][CH2:5][CH+:6]1.[CH3:7][O:8][H:9]>>[O:1]1[CH2:2][CH2:3][CH2:4][CH2:5][CH:6]1[O+:8]([H:9])[CH3:7]", "epd": [["LP-/Sigma+", [8], [6, 8]]]}
{"reaction_name": "[1,2]-Oxonium ylide rearrangement", "rsmi": "[CH2-:1][O+:2]([CH3:3])[CH2:5][CH3:4]>>[CH2:1]([O:2][CH3:3])[CH2:5][CH3:4]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Sigma-/LP+", [2, 5], [2]]]}
{"reaction_name": "Julia olefination", "rsmi": "[CH3:3][C:4]([H:5])=[O:9].[S:1]([CH2-:2])(=[O:6])(=[O:7])[CH3:8]>>[CH2:2]=[C:4]([CH3:3])[H:5].[S:1](=[O:6])(=[O:7])([CH3:8])[O-:9]", "epd": [["LP-/Sigma+", [2], [2, 4]], ["Sigma-/LP+", [4, 9], [9]], ["Pi-/Sigma+", [4, 9], [1, 9]], ["Sigma-/Pi+", [1, 2], [2, 4]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:3][C:32]1=[C:35]([Cl:26])[C:6](=[O:10])[C:5](=[O:9])[C:36]([Cl:27])=[C:33]1[Cl:4].[N:1]1([c:7]2[c:28]([CH3:11])[cH:22][c:17]([CH3:15])[cH:25][c:31]2[CH3:14])[CH:21]=[CH:20][N:2]([c:8]2[c:29]([CH3:12])[cH:23][c:18]([CH3:16])[cH:24][c:30]2[CH3:13])[C:34]1=[CH2:19]>>[n+:1]1(-[c:7]2[c:28]([CH3:11])[cH:22][c:17]([CH3:15])[cH:25][c:31]2[CH3:14])[cH:21][cH:20][n:2](-[c:8]2[c:29]([CH3:12])[cH:23][c:18]([CH3:16])[cH:24][c:30]2[CH3:13])[c:34]1[CH2:19][C:5]1([O-:9])[C:6](=[O:10])[C:35]([Cl:26])=[C:32]([Cl:3])[C:33]([Cl:4])=[C:36]1[Cl:27]", "epd": [["LP-/Pi+", [1], [34, 1]], ["Pi-/Sigma+", [19, 34], [19, 5]], ["Pi-/LP+", [5, 9], [9]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:11]1[N+:17](=[CH:6][CH:29]=[CH:12][c:23]2[cH:7][cH:18][cH:5][cH:19][cH:8]2)[CH:16]([CH2:30][c:27]2[cH:32][cH:13][cH:20][cH:14][cH:33]2)[C:22](=[O:9])[N:28]1[CH3:21])([CH3:24])([CH3:25])[CH3:26].[cH:2]1[n:3][c:15]([O-:10])[cH:34][cH:4][cH:31]1>>[C:1]([CH:11]1[N:17]([CH:6]=[CH:29][CH:12]([n:3]2[cH:2][cH:31][cH:4][cH:34][c:15]2=[O:10])[c:23]2[cH:7][cH:18][cH:5][cH:19][cH:8]2)[CH:16]([CH2:30][c:27]2[cH:32][cH:13][cH:20][cH:14][cH:33]2)[C:22](=[O:9])[N:28]1[CH3:21])([CH3:24])([CH3:25])[CH3:26]", "epd": [["Pi-/Sigma+", [2, 3], [3, 12]], ["Pi-/Pi+", [15, 34], [4, 34]], ["LP-/Pi+", [10], [10, 15]], ["Pi-/LP+", [6, 17], [17]], ["Pi-/Pi+", [12, 29], [6, 29]], ["Pi-/Pi+", [4, 31], [2, 31]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[S:1]([c:2]1[cH:25][cH:9][cH:8][cH:10][cH:26]1)([O-:3])=[O:21].[cH:4]1[c:11]([CH+:24][c:12]2[cH:5][c:15]([F:19])[cH:23][c:16]([F:20])[cH:6]2)[cH:7][c:13]([F:17])[cH:22][c:14]1[F:18]>>[S+:1]([c:2]1[cH:25][cH:9][cH:8][cH:10][cH:26]1)([O-:3])(=[O:21])[CH:24]([c:11]1[cH:4][c:14]([F:18])[cH:22][c:13]([F:17])[cH:7]1)[c:12]1[cH:5][c:15]([F:19])[cH:23][c:16]([F:20])[cH:6]1", "epd": [["LP-/Sigma+", [1], [1, 24]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:3][O:4][c:6]1[cH:28][cH:13][c:11]([CH:21]=[C:19]2[CH:22]=[C:7]([Br:16])[C:9](=[O:15])[C:8]([Br:17])=[CH:23]2)[cH:14][cH:29]1.[cH:1]1[c:20]2[cH:18][cH:27][c:25]([S-:5])[cH:12][c:26]2[cH:10][cH:2][cH:24]1>>[cH:1]1[c:20]2[cH:18][cH:27][c:25]([S:5][CH:21]([c:11]3[cH:13][cH:28][c:6]([O:4][CH3:3])[cH:29][cH:14]3)[c:19]3[cH:22][c:7]([Br:16])[c:9]([O-:15])[c:8]([Br:17])[cH:23]3)[cH:12][c:26]2[cH:10][cH:2][cH:24]1", "epd": [["LP-/Sigma+", [5], [5, 21]], ["Pi-/Pi+", [21, 19], [19, 22]], ["Pi-/Pi+", [22, 7], [7, 9]], ["Pi-/LP+", [9, 15], [15]]]}
